US04518780
Preparation of 2-(5-isopropyl-5-methyl-4-oxo-2-imidazolin-2-yl)benzoic acid, hydrochloride salt
To 5.22 g (0.020 mol) of N-(1-cyano-1,2-dimethylpropyl)phthalamic acid in a mixture of 35 mL isopropyl alcohol and 10 mL of water is added 6.41 g (0.080 mol) of aqueous 50% sodium hydroxide. External cooling is applied to hold the temperature at 20°-30° C. and 4.80 g (0.042 mol) of aqueous 30% hydrogen peroxide is added. The mixture is heated at 80° C. for five hours then cooled to 20°-25° C. Aqueous 36% hydrochloric acid is added to adjust the pH to 1. The volatile solvent is removed in vacuo to give 8.35 g of solid 2-(5-isopropyl-5-methyl-4-oxo-2-imidazolin-2-yl)benzoic acid, hydrochloride salt. The solid is analyzed by high performance liquid chromatography. The real yield is 60.3%.

reactant | N-(1-cyano-1,2-dimethylpropyl)phthalamic acid | 0.020 mol, 5.22 g | C(#N)C(C(C)C)(C)NC(C=1C(C(=O)O)=CC=CC1)=O | C14H16N2O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
reactant | hydrochloric acid | Cl | ClH
solvent | isopropyl alcohol | 35 mL | C(C)(C)O | C3H8O
solvent | water | 10 mL | O | H2O
product | 2-(5-isopropyl-5-methyl-4-oxo-2-imidazolin-2-yl)benzoic acid, hydrochloride salt | 8.35 g, yield is 60.3% | Cl.C(C)(C)C1(C(N=C(N1)C1=C(C(=O)O)C=CC=C1)=O)C | InChI=1S/C14H16N2O3.ClH/c1-8(2)14(3)13(19)15-11(16-14)9-6-4-5-7-10(9)12(17)18;/h4-8H,1-3H3,(H,17,18)(H,15,16,19);1H
